US07598243B2
A solution of 1-benzyl-3-methylpiperidin-4-one (48 g, 0.24 mol) in THF (200 mL) was added dropwise to a cooled (−78° C.) solution of sodium bis(trimethylsilyl)amide (2M in THF, 141 mL, 0.28 mol) in THF (100 mL). The resulting dark orange mixture was stirred at −78° C. for 2 hr after which a solution of N-phenyl-bis(trifluoromethanesulfonimide) (100 g, 0.28 mol) in THF (300 mL) was added dropwise. The mixture was allowed to warm to r.t. and stirred for 3 hr. Most of the THF was removed in vacuo. The residue was partitioned between Ether and aqueous 1M NaOH. The organic layer was then washed repeatedly with aqueous 1M NaOH, dried over sodium sulfate, and evaporated to dryness. The dark orange residue was then dissolved in CH2Cl2 and filtered through a silica gel plug eluting with CH2Cl2. The desired 1-benzyl-3-methyl-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate (79 g) was obtained as a yellow oil.

reactant | 1-benzyl-3-methylpiperidin-4-one | 0.24 mol, 48 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
reactant | sodium bis(trimethylsilyl)amide | 0.28 mol, 2M, 141 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 0.28 mol, 100 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 1-benzyl-3-methyl-1,2,3,6-tetrahydropyridin-4-yl trifluoromethanesulfonate | 79 g | FC(S(=O)(=O)OC=1C(CN(CC1)CC1=CC=CC=C1)C)(F)F | C14H16F3NO3S
